US06716843B2
(S)-1-[N5-{(Imino)-(cyclopropylsulphonylamino)-methyl}-ornithyl]-pyrrolidine Hydrochloride
Starting from (S)-N2-(benzyloxycarbonyl)-arginine, cyclopropanesulphonyl chloride and pyrrolidine, the expected product is obtained according to the procedure described in Example 1.

reactant | (S)-N2-(benzyloxycarbonyl)-arginine | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCCNC(N)=N)C(=O)O | C14H20N4O4
reactant | cyclopropanesulphonyl chloride | C1(CC1)S(=O)(=O)Cl | C3H5ClO2S
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | (S)-1-[N5-{(Imino)-(cyclopropylsulphonylamino)-methyl}-ornithyl]-pyrrolidine Hydrochloride | Cl.N=C(NCCC[C@H](N)C(=O)N1CCCC1)NS(=O)(=O)C1CC1 | InChI=1S/C13H25N5O3S.ClH/c14-11(12(19)18-8-1-2-9-18)4-3-7-16-13(15)17-22(20,21)10-5-6-10;/h10-11H,1-9,14H2,(H3,15,16,17);1H/t11-;/m0./s1
